US06051712
In an analogous manner to that described in Example 5, by treating 2-trimethylsilanylethyl (3RS,4RS, 5SR)-3-(4-benzyloxy-naphthalen-2-ylmethoxy)-4-(4-fluoro-phenyl)-5-propyl-piperidine-1-carboxylate with tetrabutylammonium fluoride solution there was obtained (3RS,4RS,5SR)-3-(4-benzyloxy-naphthalen-2-ylmethoxy)-4-(4-fluoro-phenyl)-5-propyl-piperidine as an almost colourless solid, MS: 484 (M+H)+.

reactant | 2-trimethylsilanylethyl (3RS,4RS, 5SR)-3-(4-benzyloxy-naphthalen-2-ylmethoxy)-4-(4-fluoro-phenyl)-5-propyl-piperidine-1-carboxylate | C(C1=CC=CC=C1)OC1=CC(=CC2=CC=CC=C12)COC1CN(CC(C1C1=CC=C(C=C1)F)CCC)C(=O)OCC[Si](C)(C)C | C38H46FNO4Si
reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | (3RS,4RS,5SR)-3-(4-benzyloxy-naphthalen-2-ylmethoxy)-4-(4-fluoro-phenyl)-5-propyl-piperidine | C(C1=CC=CC=C1)OC1=CC(=CC2=CC=CC=C12)COC1CNCC(C1C1=CC=C(C=C1)F)CCC | C32H34FNO2
